US04703053
A mixture of 50.0 g (0.27 mole) of 2-hydroxy-5-methoxybenzoic acid, methyl ester, 88.0 g (0.64 mole) of anhydrous potassium carbonate, and 25.4 ml (46.4 g, 0.30 mole) of methyl bromoacetate in 300 ml of N,N-dimethylformamide is stirred at room temperature for 24 hours. The reaction mixture is added to 1100 g of ice/water, stirred for 1 hour, and the precipitated crude product is filtered and washed with water. Recrystallization from aqueous methanol yields 54.7 g (78% yield) of analytically pure 5-methoxy-2-(2-methoxy-2-oxoethoxy) benzoic acid, methyl ester, mp 82°-85° C.

reactant | 2-hydroxy-5-methoxybenzoic acid, methyl ester | 0.27 mole, 50.0 g | OC1=C(C(=O)OC)C=C(C=C1)OC | C9H10O4
reactant | potassium carbonate | 0.64 mole, 88.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 0.30 mole, 25.4 ml, 46.4 g | BrCC(=O)OC | C3H5BrO2
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 5-methoxy-2-(2-methoxy-2-oxoethoxy) benzoic acid, methyl ester | 78% yield | COC=1C=CC(=C(C(=O)OC)C1)OCC(=O)OC | C12H14O6
